US03940394
(4-Anilino-6-chloro-2-pyrimidinylthio)acetic acid ethyl ester
A stirred mixture of 8.0 g of (4.6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester, 2.8 g of aniline and 3.2 g of sodium carbonate in 100 ml. of ethanol was heated under reflux for 5 hr. The reaction mixture was filtered and water was added to the filtrate to start precipitation. The crude product was recrystallized from 95% ethanol to afford 6.7 g of product, mp. 109°-114°C.

reactant | (4.6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester | 8.0 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | aniline | 2.8 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (4-Anilino-6-chloro-2-pyrimidinylthio)acetic acid ethyl ester | 6.7 g | C(C)OC(CSC1=NC(=CC(=N1)NC1=CC=CC=C1)Cl)=O | C14H14ClN3O2S
